US07902356B2
2-(4-Chloro-phenyl)-5-(1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one
Mix 2-(4-chloro-phenyl)-5-(1-triisopropylsilanyl-1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (4.23 g, 7.89 mmol) in THF (50 mL) and add tetrabutyl-ammonium fluoride (1.0M in THF, 10 vmL, 10 mmol). Stir the red solution at room temperature for 2 h, then quench with aqueous 2M NH4Cl (50 mL) and extract with CH2Cl2 (3×50 mL). Dry, filter, and concentrate the organic solution. Purify the crude material by flash chromatography, using 8% MeOH (2N NH3)/CHCl3 as eluent, then triturate the resulting yellow solid with ether to give the title compound (2.68 g, 89%). MS (ES+) 380.0 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 11.20 (s, 1H), 8.05 (d, 2H, J=8.4 Hz), 7.62 (d, 2H, J=8.4 Hz), 7.53 (d, 1H, J=1.8 Hz), 7.43-7.38 (m, 2H), 7.09 (dd, 1H, J=8.6, 2.0 Hz), 6.45-6.43 (m, 1H), 4.11 (t, 2H, J=7.0 Hz), 3.28 (t, 2H, J=7.0 Hz).

reactant | 2-(4-chloro-phenyl)-5-(1-triisopropylsilanyl-1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 7.89 mmol, 4.23 g | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)=O | C29H34ClN3OSSi
reactant | tetrabutyl-ammonium fluoride | 10 mmol, 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-phenyl)-5-(1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 2.68 g, 89% | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C=1C=C2C=CNC2=CC1)=O | C20H14ClN3OS
